US05877174
Hydrogen sulfide gas was introduced into a mixture of 0.48 g of diphenylmethyl [4-[3-(4-cyanobenzenesulfonylamino) propyl]-2,3-dioxopiperazin-1-yl ]-acetate, 2.4 ml of triethylamine and 4.8 ml of pyridine at room temperature until the mixture was saturated therewith. After stirring at the same temperature for 5 hours, the reaction mixture was added to a mixed solvent of 30 ml of ethyl acetate and 30 ml of water, and the pH was adjusted to 4 with 6N hydrochloric acid. The organic layer was separated and the aqueous layer was re-extracted with 10 ml of ethyl acetate. The combined organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=20:1) to obtain 0.40 g of diphenylmethyl [4-[3-(4-thiocarbamoylbenzenesulfonylamino) propyl]-2,3-dioxopiperazin-1-yl]acetate as yellow crystals.

reactant | Hydrogen sulfide | S | H2S
reactant | diphenylmethyl [4-[3-(4-cyanobenzenesulfonylamino) propyl]-2,3-dioxopiperazin-1-yl ]-acetate | 0.48 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCCN1C(C(N(CC1)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C29H28N4O6S
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 4.8 ml | N1=CC=CC=C1 | C5H5N
product | diphenylmethyl [4-[3-(4-thiocarbamoylbenzenesulfonylamino) propyl]-2,3-dioxopiperazin-1-yl]acetate | 0.40 g | C(N)(=S)C1=CC=C(C=C1)S(=O)(=O)NCCCN1C(C(N(CC1)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C29H30N4O6S2
